US07713994B2
To a 0° C. mixture of crude 1-(3-benzyloxy-4-methoxy-phenyl)-ethanol (10 mmol maximum) and diphenylphosphoryl azide (2.6 mL, 12 mmol) in toluene (18 mL) is added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 1.6 mL, 11 mmol). The mixture is stirred at 0° C. for two hours and then at room temperature overnight. The reaction mixture is washed with water and concentrated to give 4-(1-azido-ethyl)-2-benzyloxy-1-methoxybenzene, which is used in the next step without purification.

reactant | 1-(3-benzyloxy-4-methoxy-phenyl)-ethanol | 10 mmol | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(C)O | C16H18O3
reactant | diphenylphosphoryl azide | 12 mmol, 2.6 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 11 mmol, 1.6 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(1-azido-ethyl)-2-benzyloxy-1-methoxybenzene | N(=[N+]=[N-])C(C)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C16H17N3O2
